US05712267
(2S,4S)-4-Mercapto-2-(4-carbamoylmethyl-1-homopiperazinylcarbonyl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine
Following a procedure similar to that described in Preparation 8, but using 5.69 g of (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid, 2.48 g of N,N'-carbonyldiimidazole and 5.89 g of N-carbamoylmethylhomopiperazine bis(trifluoroacetate), 4.88 g of the title compound were obtained.

reactant | (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid | 5.69 g | COC1=CC=C(CS[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)O)C=C1 | C21H22N2O7S
reactant | N-carbamoylmethylhomopiperazine bis(trifluoroacetate) | 5.89 g | FC(C(=O)O)(F)F.FC(C(=O)O)(F)F.C(N)(=O)CN1CCNCCC1
product | (2S,4S)-4-Mercapto-2-(4-carbamoylmethyl-1-homopiperazinylcarbonyl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 4.88 g | S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)N1CCN(CCC1)CC(N)=O | C20H27N5O6S
